US04643759
3-Nitroacetanilide
A suspension of 13.8 g of 3-nitroaniline and 20 mL of triethylamine in 200 mL methylene chloride was cooled to 0° C. under a nitrogen atmosphere and treated with 10.2 g of acetyl chloride, added in a dropwise manner. The reaction mixture was allowed to warm to room temperature overnight. Removal of the volatiles in vacuo gave a crude yellow solid which was washed with 5% aqueous hydrochloric acid, water and was then dried. The yield of 3-nitroacetanilide was 17.4 g as a light yellow solid, m.p. 147°-149° C.; NMR (CDCl3 /DMSO-d6): δ 2.1 (3H, br s), 7.5 (1H, t, J=9 Hz), 8.0 (2H, br t), 8.6 (1H, br s) 10.1 (1H, br s); IR(KBr): 1675, 1550, 1525, 1350 cm-1.

reactant | 3-nitroaniline | 13.8 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10.2 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-Nitroacetanilide | CC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C8H8N2O3
